US05552404
Ethyl trans-4-allyl-2,5-dimethyl-1-piperazinecarboxylate (630 g, 2.78 mol) was added to a solution of 87% potassium hydroxide pellets (2970 g, 46 mol) in 4300 mL of 95% ethanol and heated at reflux for 1.5 hours. Carbon dioxide evolution was observed for the first 0.5-1 hour of heating. The reaction was cooled below reflux temperature and 2000 mL of toluene was carefully added. Ethanol was removed by azeotropic distillation at 105° C. while adding an additional 4000 mL of toluene to the reaction flask during the course of the distillation. After collection of 9000 mL of distillate, the reaction was cooled to 5° C. and 1000 mL of toluene was carefully added. The solution was slowly cooled to 5° C. and maintained at 5° C. for 30 minutes. The solution was filtered, and the filter cake was washed with an additional 1500 mL of toluene. The filtrate was washed with 1000 mL of water, dried over magnesium sulfate, and the solvent was removed to give 296 g (69%) of trans-1-allyl-2,5-dimethylpiperazine as a dark liquid. NMR (300 MHz, DMSO-d6): δ0.87 (d, J=6.3 Hz, 3H); 0.92 (d, J=6.3 Hz, 3H); 1.63 (t, J=11 Hz, 1H); 2.05 (m, 1H); 2.30 (t, J=11 Hz, 1H); 2.6-2.8 (m, 4H); 3.33 (dd, J1 =5 Hz, J2 =14Hz, 1H); 5.09 (d, J=8.7 Hz, 1H); 5.13 (d, J=14 Hz, 1H) 5.8 (m, 1H).

reactant | Ethyl trans-4-allyl-2,5-dimethyl-1-piperazinecarboxylate | 2.78 mol, 630 g | C(C=C)N1C[C@@H](N(C[C@H]1C)C(=O)OCC)C | C12H22N2O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | toluene | 2000 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4300 mL | C(C)O | C2H6O
product | trans-1-allyl-2,5-dimethylpiperazine | 296 g, 69% | C(C=C)N1[C@H](CN[C@@H](C1)C)C | C9H18N2
